US06703422B2
Under nitrogen atmosphere, methanol (1.60 g, 50.5 mmol) was added drop-wise to a suspension of LiBH4 (1.10 g, 50.5 mmol) in dichloromethane (20 mL) at rt. A solution of 5-(4-ethoxycarbonyl-4-phenyl-pentylsulfanyl)-2-methyl-2-phenyl-pentanoic acid ethyl ester (7.75 g, 16.5 mmol) in dichloromethane (100 ml) was added drop-wise at gentle reflux. The mixture was stirred under reflux for 16 h, then cooled to rt and carefully hydrolized with 2 N hydrochloric acid (50 mL) and saturated ammonium chloride solution (100 mL). The aqueous layer was extracted with dichloromethane (2×150 mL). The combined organic layers were washed with water (2×100 mL) and dried over anhydrous MgSO4. The filtrate was evaporated to yield the crude product (5.55 g) as a colorless, viscous oil. This residue was purified repeatedly by column chromatography on silica gel (120 g, first with dichloromethane/ethyl acetate=1:1, second with dichloromethane/ethyl acetate=7/1), and dried at 100° C. for 2.5 h under high vacuo to give 5-(5-hydroxy-4-methyl-4-phenylpentylsulfanyl)-2-methyl-2-phenylpentan-1-ol (3.06 g, 41%) as a colorless viscous oil. 1H NMR (300 MHz, CDCl3/TMS): d (ppm): 7.30 (m, 8H), 7.20 (m, 2H), 3.65 (m, 2H), 3.50 (m, 2H), 2.32 (m, 4H), 1.82 (dt, J=3.9, 9.6 Hz, 2H), 1.60-1.37 (m, 6H), 1.32 (s, 6H), 1.20-1.25 (m, 2H). 13C NMR (75 MHz, CDCl3/TMS): d (ppm): 144.58, 128.60, 126.81, 126.35, 72.56, 43.42, 37.60, 32.74, 32.71, 23.93, 23.91, 21.6. HRMS (LSIMS, gly): Calcd. for C24H35O2S (MH+): 387.2358, found: 387.2350.

reactant | methanol | 50.5 mmol, 1.60 g | CO | CH4O
reactant | LiBH4 | 50.5 mmol, 1.10 g | [Li+].[BH4-]
reactant | 5-(4-ethoxycarbonyl-4-phenyl-pentylsulfanyl)-2-methyl-2-phenyl-pentanoic acid ethyl ester | 16.5 mmol, 7.75 g | C(C)OC(C(CCCSCCCC(C)(C1=CC=CC=C1)C(=O)OCC)(C1=CC=CC=C1)C)=O | C28H38O4S
reactant | hydrochloric acid | 2 N, 50 mL | Cl | ClH
reactant | ammonium chloride | 100 mL | [Cl-].[NH4+]
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
product | 5-(5-hydroxy-4-methyl-4-phenylpentylsulfanyl)-2-methyl-2-phenylpentan-1-ol | 3.06 g, 41% | OCC(CCCSCCCC(CO)(C1=CC=CC=C1)C)(C1=CC=CC=C1)C | C24H34O2S
